US08975254B2
a) Ethyl 3-(pyridin-3-yl)-1H-pyrazole-5-carboxylate
Sodium (0.2 g, 13.69 mmol) was dissolved completely in 12 mL of ethanol under nitrogen atmosphere. To this solution was added 3-acetylpyridine (1.499 ml, 13.69 mmol) followed by diethyl oxalate (1.859 ml, 13.69 mmol) at RT with constant stirring. The mixture was then warmed to 75° C. for 3 h. The mixture was then cooled to RT and a solution of hydrazine hydrochloride (0.938 g, 13.69 mmol) in water (2 ml) was added. Further again the solution was warmed to 75° C. for 3 h. After the completion of the reaction as evidenced from the LC-MS, the reaction mixture was cooled and neutralized by 2 M NaOH solution. The crude product was then extracted with ethyl acetate, washed with water and brine. The organic solvent was evaporated and the residue was purified by CombiFlash (eluent: DCM: 10% MeOH/DCM). Yield 1.577 g. 1H NMR (400 MHz; MeOD): δ 1.40 (t, 3H), 4.39 (q, 2H), 7.29 (s, 1H), 7.51 (m, 1H), 8.24 (m, 1H), 8.51 (dd, 1H), 8.99 (d, 1H).

reactant | Sodium | 13.69 mmol, 0.2 g | [Na] | Na
reactant | 3-acetylpyridine | 13.69 mmol, 1.499 ml | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | diethyl oxalate | 13.69 mmol, 1.859 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrazine hydrochloride | 13.69 mmol, 0.938 g | Cl.NN
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | Ethyl 3-(pyridin-3-yl)-1H-pyrazole-5-carboxylate | N1=CC(=CC=C1)C1=NNC(=C1)C(=O)OCC | C11H11N3O2
